US09403813B2
4-Methyl-[1,1′-biphenyl]-2-carboxylic acid (A-1-14)
32% aq. NaOH (74 mL) was added to a rt solution of methyl 4-methyl-[1,1′-biphenyl]-3-carboxylate (15.5 g, 0.068 mol) in MeOH (124 mL). The rxn mixture was stirred at 65° C. for 2 h, then the org. solvent was evaporated, water added, and the aq. layer acidified with conc. HCl. The mixture was stirred at rt for 30 min, and the precipitate was filtered off to give the title compound A-1-14 as a white solid. LC-MS A: tR=0.80 min; [M+H]+=no ionization.

reactant | NaOH | 74 mL | [OH-].[Na+]
reactant | methyl 4-methyl-[1,1′-biphenyl]-3-carboxylate | 0.068 mol, 15.5 g | CC1=C(C=C(C=C1)C1=CC=CC=C1)C(=O)OC | C15H14O2
reactant | MeOH | 124 mL | CO | CH4O
product | 4-Methyl-[1,1′-biphenyl]-2-carboxylic acid | CC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C14H12O2
